US05470980
Bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Hydrazine-1,2-dicarboxylate
To a solution of 29.7 g of triphosgene in 120 mL of tetrahydrofuran (THF) is added a solution of 85.7 g of 1-octyloxy-2,2,6,6-tetramethylpiperidin-4-ol and 42.0 mL of triethylamine in 240 mL of THF over 4 hours at 5-10° C., followed by 7.3 mL of hydrazine hydrate. After stirring the reaction mixture at room temperature for 18 hours, a solution of 71.0 g of sodium carbonate in 500 mL of water is added and the organic layer is removed, washed with water and dried over anhydrous magnesium sulfate. The dried solution is evaporated to afford 97.2 g of the title compound as an oil.

reactant | triphosgene | 29.7 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | 1-octyloxy-2,2,6,6-tetramethylpiperidin-4-ol | 85.7 g | C(CCCCCCC)ON1C(CC(CC1(C)C)O)(C)C | C17H35NO2
reactant | hydrazine hydrate | 7.3 mL | O.NN
reactant | sodium carbonate | 71.0 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
reactant | THF | 240 mL | O1CCCC1 | C4H8O
solvent | water | 500 mL | O | H2O
solvent | triethylamine | 42.0 mL | C(C)N(CC)CC | C6H15N
product | Bis(1-octyloxy-2,2,6,6-tetramethylpiperidin-4-yl) Hydrazine-1,2-dicarboxylate | 97.2 g | N(NC(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C)C(=O)OC1CC(N(C(C1)(C)C)OCCCCCCCC)(C)C | C36H70N4O6
